.title kicad schematic

.include NPN.lib
.include PNP.lib
r5 net-_q18-pad2_ net-_q1-pad1_ 14k
r8 net-_q19-pad3_ net-_q21-pad3_ 8400
q23 net-_q22-pad1_ net-_q21-pad3_ net-_q19-pad3_ Q2N2222
r10 net-_q13-pad3_ net-_q19-pad3_ 2.6k
q19 net-_q19-pad1_ net-_q17-pad3_ net-_q19-pad3_ Q2N2222
* u1 net-_q13-pad3_ unconnected-_u1-pad2_ net-_q24-pad3_ net-_q1-pad3_ net-_q3-pad3_ net-_q5-pad1_ net-_q10-pad1_ net-_q1-pad1_ port
q8 net-_q3-pad2_ net-_q3-pad2_ net-_q5-pad1_ Q2N2907A
q5 net-_q5-pad1_ net-_q3-pad3_ net-_q3-pad2_ Q2N2222
q9 net-_q3-pad2_ net-_q3-pad2_ net-_q10-pad3_ Q2N2222
q6 net-_q3-pad2_ net-_q3-pad2_ net-_q10-pad3_ Q2N2222
r13 net-_q26-pad3_ net-_q1-pad1_ 16k
q29 unconnected-_q29-pad1_ net-_q28-pad2_ net-_q1-pad1_ Q2N2222
r14 net-_q14-pad3_ net-_q27-pad2_ 5800
q24 net-_q1-pad1_ net-_q22-pad1_ net-_q24-pad3_ Q2N2222
r15 net-_q28-pad2_ net-_q1-pad1_ 4300
q28 net-_q27-pad2_ net-_q28-pad2_ net-_q26-pad3_ Q2N2907A
q27 net-_q26-pad3_ net-_q27-pad2_ net-_q14-pad3_ Q2N2222
q26 net-_q13-pad3_ net-_q24-pad3_ net-_q26-pad3_ Q2N2907A
q12 net-_q11-pad3_ net-_q11-pad3_ net-_q12-pad3_ Q2N2222
r3 net-_q13-pad1_ net-_q12-pad3_ 530
q14 net-_q13-pad1_ net-_q13-pad1_ net-_q14-pad3_ Q2N2907A
q13 net-_q13-pad1_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
q18 net-_q1-pad2_ net-_q18-pad2_ net-_q18-pad3_ Q2N2222
r4 net-_q13-pad3_ net-_q13-pad2_ 7000
r6 net-_q13-pad3_ net-_q18-pad3_ 2400
q15 net-_q14-pad3_ net-_q14-pad3_ net-_q13-pad2_ Q2N2222
q4 net-_q10-pad3_ net-_q10-pad3_ net-_q11-pad2_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad1_ net-_q10-pad3_ Q2N2907A
q11 net-_q10-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q3 unconnected-_q3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
q16 net-_q1-pad1_ net-_q10-pad1_ net-_q1-pad2_ Q2N2222
q22 net-_q22-pad1_ net-_q22-pad1_ net-_q19-pad1_ Q2N2907A
r9 net-_q22-pad1_ net-_q1-pad1_ 4700
q17 unconnected-_q17-pad1_ net-_q1-pad2_ net-_q17-pad3_ Q2N2222
q21 unconnected-_q21-pad1_ net-_q19-pad1_ net-_q21-pad3_ Q2N2222
r7 net-_q19-pad1_ net-_q1-pad1_ 6500
q20 net-_q19-pad1_ net-_q19-pad1_ net-_q1-pad2_ Q2N2907A
q2 net-_q1-pad3_ net-_q18-pad2_ net-_q2-pad3_ Q2N2222
r1 net-_q13-pad3_ net-_q2-pad3_ 200
r2 net-_q13-pad1_ net-_q7-pad3_ 530
q7 net-_q11-pad2_ net-_q11-pad3_ net-_q7-pad3_ Q2N2222
r11 net-_q13-pad3_ net-_q25-pad3_ 200
q25 net-_q18-pad2_ net-_q18-pad2_ net-_q25-pad3_ Q2N2222
q30 net-_q28-pad2_ net-_q18-pad2_ net-_q30-pad3_ Q2N2222
r12 net-_q13-pad3_ net-_q24-pad3_ 4800
r16 net-_q13-pad3_ net-_q30-pad3_ 200
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
