* Subcircuit LM129
.subckt LM129 net-_q2-pad1_ net-_q1-pad3_ 
.title kicad schematic
.include PNP.lib
.include NPN.lib
r1 net-_q2-pad1_ net-_c1-pad1_ 50
q2 net-_q2-pad1_ net-_q2-pad1_ net-_c1-pad1_ Q2N2222
q1 net-_c1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 15p
r2 net-_q1-pad2_ net-_c1-pad2_ 2k
c2 net-_c2-pad1_ net-_c2-pad2_ 30p
r4 net-_q6-pad2_ net-_c2-pad2_ 10k
q4 net-_c2-pad1_ net-_c2-pad2_ net-_q1-pad3_ Q2N2222
r3 net-_q1-pad2_ net-_q1-pad3_ 30k
q3 net-_q1-pad2_ net-_c2-pad1_ net-_c1-pad1_ Q2N2907A
r5 net-_q6-pad2_ net-_q1-pad3_ 2k
r7 net-_q6-pad3_ net-_q1-pad3_ 2.6k
q7 net-_q5-pad2_ net-_q5-pad2_ net-_q2-pad1_ Q2N2907A
r6 net-_q2-pad1_ net-_q5-pad3_ 1k
* u1 net-_q6-pad2_ net-_q2-pad1_ zener
q5 net-_c2-pad1_ net-_q5-pad2_ net-_q5-pad3_ Q2N2907A
q6 net-_q5-pad2_ net-_q6-pad2_ net-_q6-pad3_ Q2N2222
a1 net-_q6-pad2_ net-_q2-pad1_ u1
* Schematic Name:                             zener, Ngspice Name: zener
.model u1 zener(v_breakdown=6.514 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends LM129