.title kicad schematic

.include NPN.lib
.include PNP.lib
i5 net-_i1-pad1_ net-_q15-pad3_ 6u
q15 net-_q15-pad1_ net-_q14-pad3_ net-_q15-pad3_ Q2N2907A
* u1 net-_q10-pad3_ net-_q1-pad2_ net-_q6-pad2_ gnd net-_q19-pad2_ net-_q14-pad2_ net-_q23-pad3_ net-_i1-pad1_ port
q14 gnd net-_q14-pad2_ net-_q14-pad3_ Q2N2907A
q16 net-_q15-pad1_ net-_q15-pad1_ gnd Q2N2222
q23 net-_c2-pad2_ net-_q23-pad2_ net-_q23-pad3_ Q2N2222
q24 net-_i1-pad1_ net-_c2-pad2_ net-_q24-pad3_ Q2N2222
i7 net-_i1-pad1_ net-_c2-pad2_ 100u
q25 net-_i1-pad1_ net-_q24-pad3_ net-_q23-pad2_ Q2N2222
r4 net-_q23-pad3_ net-_q23-pad2_ 50
q22 net-_c2-pad2_ net-_q21-pad3_ gnd Q2N2222
i8 net-_q23-pad3_ gnd 50u
q26 gnd net-_c2-pad2_ net-_q23-pad3_ Q2N2907A
q20 gnd net-_c2-pad1_ net-_q20-pad3_ Q2N2907A
r3 gnd net-_q21-pad3_ 1k
q21 net-_i1-pad1_ net-_q20-pad3_ net-_q21-pad3_ Q2N2222
q18 net-_c2-pad1_ net-_q18-pad2_ net-_q15-pad3_ Q2N2907A
c2 net-_c2-pad1_ net-_c2-pad2_ 30p
i6 net-_i1-pad1_ net-_q20-pad3_ 4.0u
q17 net-_c2-pad1_ net-_q15-pad1_ gnd Q2N2222
q19 gnd net-_q19-pad2_ net-_q18-pad2_ Q2N2907A
i1 net-_i1-pad1_ net-_q2-pad3_ 6u
c1 net-_c1-pad1_ net-_c1-pad2_ 30p
r2 net-_q10-pad3_ net-_q10-pad2_ 50
q11 net-_i1-pad1_ net-_c1-pad2_ net-_q11-pad3_ Q2N2222
q12 net-_i1-pad1_ net-_q11-pad3_ net-_q10-pad2_ Q2N2222
q9 net-_c1-pad2_ net-_q8-pad3_ gnd Q2N2222
q8 net-_i1-pad1_ net-_q7-pad3_ net-_q8-pad3_ Q2N2222
r1 gnd net-_q8-pad3_ 1k
q10 net-_c1-pad2_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
i2 net-_i1-pad1_ net-_q7-pad3_ 4.0u
i3 net-_i1-pad1_ net-_c1-pad2_ 100u
q13 gnd net-_c1-pad2_ net-_q10-pad3_ Q2N2907A
i4 net-_q10-pad3_ gnd 50u
q7 gnd net-_c1-pad1_ net-_q7-pad3_ Q2N2907A
q4 net-_c1-pad1_ net-_q2-pad1_ gnd Q2N2222
q3 net-_q2-pad1_ net-_q2-pad1_ gnd Q2N2222
q1 gnd net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q5 net-_c1-pad1_ net-_q5-pad2_ net-_q2-pad3_ Q2N2907A
q6 gnd net-_q6-pad2_ net-_q5-pad2_ Q2N2907A
q2 net-_q2-pad1_ net-_q1-pad3_ net-_q2-pad3_ Q2N2907A
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
